US08937078B2
Step D: Preparation of 1-[6-cyclopropyl-4-oxo-3-(2-trimethylsilanylethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester.
A mixture of 1-[6-bromo-4-oxo-3-(2-trimethylsilanyl-ethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (0.500 g, 1.01 mmol), cyclopropylboronic acid (0.199 g, 2.32 mmol), dichloro(1,1′-bis(diphenylphosphino)ferrocene)palladium(II)dichloromethane adduct (0.100 g, 0.123 mmol), K2CO3 (0.420 g, 3.04 mmol) and THF (10 mL) were purged for 15 minutes with nitrogen and then heated to 80° C. for 15 h. The mixture was cooled to room temperature and filtered through a pad of CELITE®. The filtrate cake was washed with dichloromethane and concentrated. The residue was purified by FCC (0-20% EtOAc/hexanes) to yield the titled compound (0.120 g, 26% yield). MS (ESI/Cl): mass calcd. for C23H30N4O4Si, 454.2; m/z found, 455.2 [M+H]+.

reactant | 1-[6-bromo-4-oxo-3-(2-trimethylsilanyl-ethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 1.01 mmol, 0.500 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1COCC[Si](C)(C)C)=O)Br | C20H25BrN4O4Si
reactant | cyclopropylboronic acid | 2.32 mmol, 0.199 g | C1(CC1)B(O)O | C3H7BO2
reactant | K2CO3 | 3.04 mmol, 0.420 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | dichloro(1,1′-bis(diphenylphosphino)ferrocene)palladium(II)dichloromethane adduct | 0.123 mmol, 0.100 g | [CH-]1C=CC(=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC(=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-[6-cyclopropyl-4-oxo-3-(2-trimethylsilanylethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.120 g, 26% yield | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1COCC[Si](C)(C)C)=O)C1CC1 | C23H30N4O4Si
